US05994394
18.6 g (100 mmol) of 2-(diethoxymethyl) thiophene in 100 ml of tetrahydrofuran ("THF") was placed in a 2-neck flask equipped with dropping funnel. The solution was cooled to -78° C. under nitrogen atmosphere and added 62.5 mL of 1.6 M n-butyl lithium (100 mmol) dropwise through dropping funnel in 1 hr. The reaction mixture was stirred at -78° C. for 1 hr and gradually warmed up to room temperature. After stirred for 30 minutes, the mixture was again cooled to -78° C. and added dropwise a THF (50 mL) solution of 32.5 g (100 mmol) of tributyl tin chloride with continual stirring. Gradually warmed up to room temperature, the mixture was stirred for another 10-12 hrs at room temperature and then concentrated. Reduced pressure distillation yielded 36.8 g (80%) of 2-(diethoxymethyl)-5-(tributylstannyl) thiophene (bp 195° C./1 torr).

reactant | 2-(diethoxymethyl) thiophene | 100 mmol, 18.6 g | C(C)OC(C=1SC=CC1)OCC | C9H14O2S
reactant | n-butyl lithium | 100 mmol, 1.6 M, 62.5 mL | C(CCC)[Li]
reactant | tributyl tin chloride | 100 mmol, 32.5 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 50 mL | O1CCCC1 | C4H8O
product | 2-(diethoxymethyl)-5-(tributylstannyl) thiophene | 36.8 g, 80% | C(C)OC(C=1SC(=CC1)[Sn](CCCC)(CCCC)CCCC)OCC | InChI=1S/C9H13O2S.3C4H9.Sn/c1-3-10-9(11-4-2)8-6-5-7-12-8;3*1-3-4-2;/h5-6,9H,3-4H2,1-2H3;3*1,3-4H2,2H3;
